US08404672B2
To a solution of ethyl 3-(pyridin-2-yl)-4-(trifluoromethyl)isoxazole-5-carboxylate (511 mg, 1.79 mmol) in methanol (12 mL) and water (3 mL) at room temperature was added lithium hydroxide, hydrate (74.9 mg, 1.79 mmol). The reaction mixture was stirred for 1 hr. A 1N aqueous solution of hydrochloric acid (1.8 mL) was added, and the solvent were removed under reduced pressure to afford 3-(pyridin-2-yl)-4-(trifluoromethyl)isoxazole-5-carboxylic acid+1LiCl (531 mg, 1.767 mmol, 99% yield) as a white solid. The compound had an HPLC ret. time=0.725 min.—Column: CHROMOLITH® SpeedROD 4.6×50 mm (4 min.); Solvent A=10% MeOH, 90% H2O, 0.1% TFA; Solvent B=90% MeOH, 10% H2O, 0.1% TFA. LC/MS M+1=258.8. 1H NMR (400 MHz, CD3OD) δ ppm 7.59 (dd, J=7.03, 5.02 Hz, 1H), 7.82 (d, J=7.78 Hz, 1H), 8.01 (td, J=7.78, 1.76 Hz, 1H), and 8.73 (d, 1H).

reactant | ethyl 3-(pyridin-2-yl)-4-(trifluoromethyl)isoxazole-5-carboxylate | 1.79 mmol, 511 mg | N1=C(C=CC=C1)C1=NOC(=C1C(F)(F)F)C(=O)OCC | C12H9F3N2O3
reactant | lithium hydroxide, hydrate | 1.79 mmol, 74.9 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 1.8 mL | Cl | ClH
solvent | methanol | 12 mL | CO | CH4O
solvent | water | 3 mL | O | H2O
product | 3-(pyridin-2-yl)-4-(trifluoromethyl)isoxazole-5-carboxylic acid | 1.767 mmol, 531 mg, 99% yield | N1=C(C=CC=C1)C1=NOC(=C1C(F)(F)F)C(=O)O | C10H5F3N2O3
